US07294636B2
4-{3-[4-(methylthio)benzyl]-1,2,4-oxadiazol-5-yl}piperidine hydrochloride
Acetyl chloride (86 μL, 1.21 mmol) was added dropwise to methanol (0.5 mL) and stirred for 10 minutes then added to tert-butyl 4-{3-[4-(methylthio)benzyl]-1,2,4-oxadiazol-5-yl}piperidine-1-carboxylate (237 mg, 0.61 mmol) in MeOH (5 mL) and the mixture heated to 60° C. for 1 hour and the solvents evaporated to give a the title compound as a yellow powder, (199 mg, 100%); MS: 290 (MH+).

reactant | Acetyl chloride | 1.21 mmol, 86 μL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 4-{3-[4-(methylthio)benzyl]-1,2,4-oxadiazol-5-yl}piperidine-1-carboxylate | 0.61 mmol, 237 mg | CSC1=CC=C(CC2=NOC(=N2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C20H27N3O3S
solvent | MeOH | 5 mL | CO | CH4O
solvent | methanol | 0.5 mL | CO | CH4O
product | 4-{3-[4-(methylthio)benzyl]-1,2,4-oxadiazol-5-yl}piperidine hydrochloride | 199 mg, 100% | Cl.CSC1=CC=C(CC2=NOC(=N2)C2CCNCC2)C=C1 | InChI=1S/C15H19N3OS.ClH/c1-20-13-4-2-11(3-5-13)10-14-17-15(19-18-14)12-6-8-16-9-7-12;/h2-5,12,16H,6-10H2,1H3;1H
